US05646172
4-amino-tetrahydro-2H-pyran-4-carbonitrile
8 ml of ammonium hydroxide, 1.58 g of ammonium chloride and 1.23 g of sodium cyanide were successively introduced and the solution obtained was cooled in an ice/methanol bath at about -7° C. 2 ml of tetrahydro-4H-pyran-4-one were added at a temperature of ≤0° C., and the reaction medium was allowed to rise to ambient temperature with vigorous stirring for 18 hours. After extracting 3 times with methylene chloride, washing with salt water and drying, 2.49 g of the expected product (translucent crystals) melting at approximately 46°-47° C. were obtained.

reactant | ammonium hydroxide | 8 ml | [OH-].[NH4+]
reactant | ammonium chloride | 1.58 g | [Cl-].[NH4+]
reactant | sodium cyanide | 1.23 g | [C-]#N.[Na+]
reactant | tetrahydro-4H-pyran-4-one | 2 ml | O1CCC(CC1)=O | C5H8O2
product | 4-amino-tetrahydro-2H-pyran-4-carbonitrile | 2.49 g | NC1(CCOCC1)C#N | C6H10N2O
